US06013649
Part A: To a solution of 2.6 g (18 mmol) of 4-methoxybenzenethiol in 30 ml of methanol at zero° C., was added 2.2 mL (2.0 g, 20 mmol) of methyl methacrylate. After nitrogen gas was bubbled through the solution for 15 min., 2.8 mL (2.1 g, 20 mmole) of triethylamine was added. After 4.5 hours, 20 mL of methanol and 10 mL of water were added, followed by 36 g (59 mmol) of potassium peroxymonosulfate (OXONE®). After 65 hours, the reaction was filtered, the filter cake was washed with methanol and the filtrate concentrated in vacuo, ethyl acetate and water were added, the layers were separated and the aqueous layer was extracted 2×s with ethyl acetate. The 3 organic extracts were combined and washed with saturated sodium bicarbonate solution and brine, dried with magnesium sulfate, filtered and concentrated to afford 4.1 g of crude product. This was chromatographed on silica gel using 25%-35% ethyl acetate/hexane to yield 3.5 g of pure methyl 3-[(4-methoxyphenyl)sulfonyl]-butanoic acid, m/z=279 (M+Li).

reactant | 4-methoxybenzenethiol | 18 mmol, 2.6 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | methyl methacrylate | 20 mmol, 2.2 mL, 2.0 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | triethylamine | 20 mmole, 2.8 mL, 2.1 g | C(C)N(CC)CC | C6H15N
reactant | potassium peroxymonosulfate | 59 mmol, 36 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | methyl 3-[(4-methoxyphenyl)sulfonyl]-butanoic acid | 3.5 g | CC(C(=O)O)C(C)S(=O)(=O)C1=CC=C(C=C1)OC | C12H16O5S
